US07119115B2
56 mg of 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylic acid and 10 cm3 of methanol are treated as in Example 2-1 to give 39 mg of methyl 6,6-diphenyl-6,7-dihydro-2H-indazole-3-carboxylate, in the form of a white foam, the characteristics of which are as follows:

reactant | 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylic acid | 56 mg | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)C(=O)O)C1=CC=CC=C1 | C20H16N2O2
reactant | methanol | 10 cm3 | CO | CH4O
product | methyl 6,6-diphenyl-6,7-dihydro-2H-indazole-3-carboxylate | 39 mg | C1(=CC=CC=C1)C1(C=CC2=C(NN=C2C1)C(=O)OC)C1=CC=CC=C1 | C21H18N2O2
